US04659728
4-Methoxybenzoin (24 g, 0.1 m) prepared according to B. R. Kinney, J.A.C.S., 51, 1595 (1929), succinic anhydride (12 g, 0.12 m), triethylamine (5 ml, 0.035 m) and toluene (30 ml) were heated on a steam cone for three hours under nitrogen. After cooling, acetic acid (60 ml) and ammonium acetate (10.5 g) were added and heating was resumed as 60 ml of solvent were distilled. Acetic acid (30 ml) was added and 30 ml of solvent were distilled. The previous step was repeated twice more. The mixture was cooled and poured into 600 ml of ice water, decanted, triturated twice with ice water and filtered. Recrystallization from 50% aqueous methanol gave 24.2 g, (71%) of 4-(4-methoxyphenyl-5-phenyl-2-oxazolepropanoic acid, m.p. 118°-120° C.

reactant | 4-Methoxybenzoin | 24 g | COC1=CC=C(C=C1)C(=O)C(O)C1=CC=CC=C1 | C15H14O3
reactant | succinic anhydride | 12 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium acetate | 10.5 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methoxyphenyl-5-phenyl-2-oxazolepropanoic acid | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=CC=C1)CCC(=O)O | C19H17NO4
